US04254127
A mixture of 2.3 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 2.57 parts of 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride, 2.65 parts of sodium carbonate and 22.5 parts of N,N-dimethylformamide is stirred for 4 hours at 70°-80° C. The reaction mixture is poured onto water and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and recrystallized from 2-propanol, yielding 1.4 parts (35%) of 1-[3-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]propyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 208° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride | Cl.FC1=CC=C(C=C1)C(CC1CCNCC1)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[3-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]propyl]-1,3-dihydro-2H-benzimidazol-2-one | 35% | FC1=CC=C(C=C1)C(CC1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)=O | C23H26FN3O2
